US08912324B2
To a suspension of (S)-(4-fluorophenyl)(4-((5-methyl-1H-pyrazol-3-yl)amino)quinazolin-2-yl)methanol (4.33 g) in 1:1 CH3CN/H2O (100 mL) was added 1N HCl (15.5 mL, 15.5 mmol). The solution was frozen and lyophilized to afford 4.9 g of (S)-(4-fluorophenyl)(4-((5-methyl-1H-pyrazol-3-yl)amino)quinazolin-2-yl)methanol hydrochloride as a solid. 1H NMR (300 MHz, DMSO-d6) δ 14.61 (br s., 1H), 12.16 (br s., 1H), 8.84 (d, J=8.1 Hz, 1H), 8.24 (d, J=8.1 Hz, 1H), 8.02-8.13 (m, 1H), 7.73-7.88 (m, 1H), 7.55-7.70 (m, 2H), 7.18-7.36 (m, 2H), 6.21 (s, 1H), 6.02 (s, 1H), 3.93 (br s, 2H, obscured by H2O peak), 2.26 (s, 3H); LC-MS (ESI) m/z: 350 (M+H)+. Analysis by chiral HPLC showed that the HCl salt had an enantiomeric excess of about 100%.

reactant | (S)-(4-fluorophenyl)(4-((5-methyl-1H-pyrazol-3-yl)amino)quinazolin-2-yl)methanol | 4.33 g | FC1=CC=C(C=C1)[C@H](O)C1=NC2=CC=CC=C2C(=N1)NC1=NNC(=C1)C | C19H16FN5O
reactant | HCl | 15.5 mmol, 1N, 15.5 mL | Cl | ClH
solvent | CH3CN H2O | 100 mL | CC#N.O
product | (S)-(4-fluorophenyl)(4-((5-methyl-1H-pyrazol-3-yl)amino)quinazolin-2-yl)methanol hydrochloride | 4.9 g | Cl.FC1=CC=C(C=C1)[C@H](O)C1=NC2=CC=CC=C2C(=N1)NC1=NNC(=C1)C | InChI=1S/C19H16FN5O.ClH/c1-11-10-16(25-24-11)22-18-14-4-2-3-5-15(14)21-19(23-18)17(26)12-6-8-13(20)9-7-12;/h2-10,17,26H,1H3,(H2,21,22,23,24,25);1H/t17-;/m0./s1
